Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4][O:5][H:6].[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10],0.70716152017
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8],5.68247012396
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1][C:2]([C:3]#[C:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.48143605175
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:11][C:12]([H:13])[H:14],1.98161401467
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.80330748198
[H:1][C:2]([H:3])[C@@:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C@@:12]1([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C@:12]([C:9]([H:10])[H:11])([H:13])[C:14]([H:15])([H:16])[H:17],-0.0938205588009
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],6.14275045298
[C:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2](=[C:3](\[H:4])[O:5][C:6]([H:7])[H:8])\[C:9]([H:10])([H:11])[H:12],5.24430918742
[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[O:1]=[C:2]=[C:3][O:4][C:5],5.08683593989
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][O:9][C:10]([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],-2.6978486565
[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],-4.00972138176
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.476581711280001
[O:1][C@:2]([H:3])([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1][C:2]([H:3])([O:4])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.88193712113
[H:1][C:2][C:14]([H:15])([H:16])[H:17].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.7961218506800005
[C:5][H:6].[H:1][C:2][C:3]([H:4])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-8.78518372524
[H:5].[O:1][O:2][C:3]([H:4])=[C:6][H:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],-1.70276153063
[C:6]=[C:7]([H:8])[H:9].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-2.89233358413
[C:6]([H:7])#[C:8][H:9].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9],-0.256515308738
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12],-7.93668406757
[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1],5.51420674373
[C:1][C:2][O:3].[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.61445121539
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2],5.995002277359999
[H:1][O:2][C@@:3]1([H:4])[C:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:7](\[O:6][C:5])[C:8]([H:9])([H:10])[H:11],-0.523894091601
[C:5]([H:6])([O:7][O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])[H:12],1.38426083398
[C:10][H:11].[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11],-6.40934818336
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.20797394085
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.13479723149
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C@@:5]1([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],3.20087085102
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9],3.42722827423
